US04032601
Diphenyl 1-(methanesulfonylamino)propylphosphonate
When a mixture of 0.3 mole each of triphenyl phosphite, propionaldehyde, and methanesulfonamide in 150 g of chlorobenzene is stirred and warmed under nitrogen, heat of reaction is observed at about 100° C., and cooling is used for a few minutes to keep the temperature below 110° C., and cooling is used for a few minutes to keep the temperature below 110°. Warming is continued at 100°-110° for 2 hrs, and then the reaction mixture is stirred as it cools to room temperature, resulting in formation of a solid, 53.4 g (48% yield), of crude product. This is washed with water and recrystallized from benzene, giving white solid product: mp 136°-139°; 31P nmr (DMSO-d6)- 17.3 ppm.

reactant | triphenyl phosphite | 0.3 mole | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
solvent | chlorobenzene | 150 g | ClC1=CC=CC=C1 | C6H5Cl
product | Diphenyl 1-(methanesulfonylamino)propylphosphonate | 48% yield | CS(=O)(=O)NC(CC)P(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C16H20NO5PS
